US03931239
Step D: 2-Ethyl-3-phenyl-5-hydroxy-6,7-dichloro-1-indanone
A stirred mixture of 2-ethyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone (13.9 g., 0.0415 mole) and aluminum chloride (13.6 g., 0.104 mole) in heptane (120 ml.) is refluxed for five hours then cooled. The heptane is decanted and the residue is treated with ice water (100 ml.) containing hydrochloric acid. The gum which separates is extracted into ether, washed with water dried over magnesium sulfate and the ether evaporated at reduced pressure affording 11.3 g. of 2-ethyl-3-phenyl-5-hydroxy-6,7-dichloro-1-indanone which melts at 220°-2°C. after recrystallization from methanol.

reactant | 2-ethyl-3-phenyl-5-methoxy-6,7-dichloro-1-indanone | 0.0415 mole, 13.9 g | C(C)C1C(C2=C(C(=C(C=C2C1C1=CC=CC=C1)OC)Cl)Cl)=O | C18H16Cl2O2
reactant | aluminum chloride | 0.104 mole, 13.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | heptane | 120 ml | CCCCCCC | C7H16
product | 2-Ethyl-3-phenyl-5-hydroxy-6,7-dichloro-1-indanone | C(C)C1C(C2=C(C(=C(C=C2C1C1=CC=CC=C1)O)Cl)Cl)=O | C17H14Cl2O2
